US09340538B2
Step A: 5-fluoro-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde
A mixture of 2-bromo-4-fluorobenzaldehyde (2 g, 9.85 mmol), (4-(trifluoromethyl)phenyl)boronic acid (2.25 g, 11.82 mmol), potassium acetate (2.42 g, 24.63 mmol) and Pd(PPh3)4 (1.14 g, 0.98 mmol) in DMF (40 mL) and water (13 mL) was stirred at 100° C. for 3 hours under N2, then cooled to 25° C. To the mixture was added EtOAc (250 mL). The organic layer was washed with brine (200 mL×3), dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=70/1) to give the title compound as colorless oil (2.11 g, 79%). The compound was characterized by the following spectroscopic data:

reactant | 2-bromo-4-fluorobenzaldehyde | 9.85 mmol, 2 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | (4-(trifluoromethyl)phenyl)boronic acid | 11.82 mmol, 2.25 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium acetate | 24.63 mmol, 2.42 g | C(C)(=O)[O-].[K+]
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 13 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.98 mmol, 1.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-fluoro-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde | 2.11 g, 79% | FC1=CC=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)C=O | C14H8F4O
